US05550147
A mixture of 4,4-difluoro-1-[4-(methylthio)phenyl]-butane-1,3-dione (2.4 g) and 4-methoxyphenylhydrazine hydrochloride (1.9 g) in acetic acid (10 ml) was stirred at 100° C. for 1 hour. The solvent was evaporated and the residue was purified by column chromatography on silica gel (30 g) eluting with toluene. The purified oily product was crystallized from ethanol to give crystals of 3-(difluoromethyl)-1-(4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazole (2.5 g).

reactant | 4,4-difluoro-1-[4-(methylthio)phenyl]-butane-1,3-dione | 2.4 g | FC(C(CC(=O)C1=CC=C(C=C1)SC)=O)F | C11H10F2O2S
reactant | 4-methoxyphenylhydrazine hydrochloride | 1.9 g | Cl.COC1=CC=C(C=C1)NN
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-(difluoromethyl)-1-(4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazole | 2.5 g | FC(C1=NN(C(=C1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)OC)F | C18H16F2N2OS
